US09315462B2
Step 1: Synthesis of methyl 3-amino-4-(6-methoxyquinolin-2-yl)benzoate
To a mixture of compound 2-chloro-6-methoxyquinoline (1.70 g, 8.78 mmol), 2-amino-4-(methoxycarbonyl)phenylboronic acid (2.05 g, 10.5 mmol), and K2CO3 (2.43 g, 17.6 mmol) in ethylene glycol monomethyl ether/H2O (35 mL/5 mL) was added Pd(dppf)Cl2 (158 mg, 0.193 mmol) under N2 atmosphere. Then the mixture was heated to 80° C. for 3 hours. After aqueous workup with EtOAc extraction, the resulting crude product was purified by silica gel column (PE/EtOAc=15/1 to 3/1) to give the product (500 mg, yield 19%) as a yellow solid.

reactant | 2-chloro-6-methoxyquinoline | 8.78 mmol, 1.70 g | ClC1=NC2=CC=C(C=C2C=C1)OC | C10H8ClNO
reactant | 2-amino-4-(methoxycarbonyl)phenylboronic acid | 10.5 mmol, 2.05 g | NC1=C(C=CC(=C1)C(=O)OC)B(O)O | C8H10BNO4
reactant | K2CO3 | 17.6 mmol, 2.43 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethylene glycol monomethyl ether H2O | 35 mL | COCCO.O
catalyst | Pd(dppf)Cl2 | 0.193 mmol, 158 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 3-amino-4-(6-methoxyquinolin-2-yl)benzoate | 500 mg, yield 19% | NC=1C=C(C(=O)OC)C=CC1C1=NC2=CC=C(C=C2C=C1)OC | C18H16N2O3
